US05041453
0.78 g of 2-(4-chloromethylphenoxy)methylquinoline, 6.84 g of n-propyl 5-chloro-4-hydroxybenzoxazole-2carboxylate and a catalytic amount of potassium iodide are combined in 50 ml of acetone and 2 ml of dimethylformamide, and refluxed for 19 hours. The crude solid obtained on cooling is purified by flash chromatography to give n-propyl 5-chloro-4-(4-(quinolin-2-ylmethyloxy)benzyloxy)benzoxazole-2-carboxylate.

reactant | 2-(4-chloromethylphenoxy)methylquinoline | 0.78 g | ClCC1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C17H14ClNO
reactant | n-propyl 5-chloro-4-hydroxybenzoxazole-2carboxylate | 6.84 g | ClC=1C=CC2=C(N=C(O2)C(=O)OCCC)C1O | C11H10ClNO4
reactant | potassium iodide | [I-].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | n-propyl 5-chloro-4-(4-(quinolin-2-ylmethyloxy)benzyloxy)benzoxazole-2-carboxylate | ClC=1C=CC2=C(N=C(O2)C(=O)OCCC)C1OCC1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C28H23ClN2O5
